US04336322
Synthesis of 5-Amino-2-(2-propoxyethoxy)benzenesulfonic Acid
A mixture of 10 g of sodium 2-(2-propoxyethoxy)-5-nitrobenzenesulfonate, 5 g of reduced iron, 0.2 g of ammonium chloride, 20 ml of isopropyl alcohol and 20 ml of water was stirred at 77° C. for 2 hours. After the reaction was completed, the reaction solution was filtered to remove insoluble products. After addition of 10 ml of concentrated hydrochloric acid (36%), the filtrate was cooled. Precipitated crystals were collected by filtration and dried by air. Yield: 7.1 g.

reactant | sodium 2-(2-propoxyethoxy)-5-nitrobenzenesulfonate | 10 g | C(CC)OCCOC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)[O-].[Na+]
reactant | ammonium chloride | 0.2 g | [Cl-].[NH4+]
reactant | isopropyl alcohol | 20 ml | C(C)(C)O | C3H8O
solvent | water | 20 ml | O | H2O
product | 5-Amino-2-(2-propoxyethoxy)benzenesulfonic Acid | NC=1C=CC(=C(C1)S(=O)(=O)O)OCCOCCC | C11H17NO5S
